US05610303
5.54 g of lithium hydroxide·hydrate was added to 24.2 g of 7-acetoxy-4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine dissolved in 150 ml of tetrahydrofuran, and the mixture was stirred at room temperature for about 20 hours. After the reaction, water was added to the reaction mixture, and then the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and then condensed. The obtained residue was applied to silica gel column chromatography to obtain 10.5 g of 4-chloro-7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidine.

reactant | 7-acetoxy-4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 24.2 g | C(C)(=O)OC1CCC2=C1N=CN=C2Cl | C9H9ClN2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-chloro-7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 10.5 g | ClC=1C2=C(N=CN1)C(CC2)O | C7H7ClN2O
